US07994203B2
To a stirred solution of 1-(6-methoxy-4-methyl-pyridin-3-yl)-propan-1-ol (445 mg, 2.45 mmol, 1 eq.) in CHCl3 (10 ml) is added activated manganese dioxide (4.3 g, 49 mmol, 20 eq.) in one portion at RT. The reaction mixture is heated at reflux for 48 h. After cooling to RT, the mixture is filtered through Celite® (filter material) and concentrated under reduced pressure. The resulting crude residue is purified by column chromatography on silica gel eluting with 10% EtOAc/iso-hexane to yield 1-(6-methoxy-4-methyl-pyridin-3-yl)-propan-1-one as a white solid. MS: m/z 180.1 [M+H]+; 1H NMR (400 MHz, CDCl3) δ 1.2 (t, 3H), 2.55 (s, 3H), 2.95 (q, 2H), 4.00 (s, 3H), 6.60 (s, 1H), 8.65 (s, 1H).

reactant | 1-(6-methoxy-4-methyl-pyridin-3-yl)-propan-1-ol | 2.45 mmol, 445 mg, 1 eq. | COC1=CC(=C(C=N1)C(CC)O)C | C10H15NO2
solvent | CHCl3 | 10 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 49 mmol, 4.3 g, 20 eq. | [O-2].[O-2].[Mn+4]
product | 1-(6-methoxy-4-methyl-pyridin-3-yl)-propan-1-one | COC1=CC(=C(C=N1)C(CC)=O)C | C10H13NO2
